US05741816
Triethylamine (0.53 ml, 3.81 mmol) and 1-bromotridecane (5.0 g, 19.0 mmol) were added successively to a suspension of (R)-(3-carboxy-2-tridecanoyloxypropyl)trimethylammonium chloride (1.5 g, 3.81 mmol) in 30 ml of dimethylformamide, and the mixture was stirred for 23 hours at 50° to 60° C. under argon atmosphere. The solvent of the reaction mixture was removed under reduced pressure. To the residue was added 20 ml of diethyl ether, and the mixture was stirred at room temperature. Thereafter, the precipitates were collected by filtration, washed with diethyl ether, and dried to give 2.5 g of crude (R)-(2-tridecanoyloxy-3-tridecyloxycarbonylpropyl)trimethylammonium bromide as a colorless solid. To 2.5 g of the product thus obtained was added 50 ml of water, and the mixture was stirred for 1 hour at room temperature and then extracted with tetrahydrofuran-ethyl acetate (1:1). To the extracted organic layer were added 100 ml of a saturated saline solution and 30 ml of water, and the mixture was stirred for 18 hours at room temperature. Thereafter, the organic layer was collected, washed with a saturated saline solution and then water, and the solvent was removed under reduced pressure. The residue was azeotroped with ethyl acetate and then dried at room temperature under reduced pressure to afford 1.75 g of a crude desired product. The product obtained was recrystallized from ethyl acetate to provide 1.58 g of (R)-(2-tridecanoyloxy-3-tridecyloxycarbonylpropyl)trimethylammonium chloride as colorless crystals.

reactant | Triethylamine | 3.81 mmol, 0.53 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromotridecane | 19.0 mmol, 5.0 g | BrCCCCCCCCCCCCC | C13H27Br
reactant | (R)-(3-carboxy-2-tridecanoyloxypropyl)trimethylammonium chloride | 3.81 mmol, 1.5 g | [Cl-].C(=O)(O)C[C@H](C[N+](C)(C)C)OC(CCCCCCCCCCCC)=O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (R)-(2-tridecanoyloxy-3-tridecyloxycarbonylpropyl)trimethylammonium bromide | 2.5 g | [Br-].C(CCCCCCCCCCCC)(=O)O[C@@H](C[N+](C)(C)C)CC(=O)OCCCCCCCCCCCCC | InChI=1S/C33H66NO4.BrH/c1-6-8-10-12-14-16-18-20-22-24-26-28-37-33(36)29-31(30-34(3,4)5)38-32(35)27-25-23-21-19-17-15-13-11-9-7-2;/h31H,6-30H2,1-5H3;1H/q+1;/p-1/t31-;/m1./s1
